US03959475
1'-Benzyl-1,3-dihydro-3,3-diphenylspiro[isobenzofuran-1,3'-piperidine]
Reaction of 1'-benzyl-1,3-dihydrospiro[isobenzofuran-1,3'-piperidine]-3-one with a large excess of phenyllithium by the method described in Example 1 provides off-white crystals, m.p. 144°-146°.

reactant | 1'-benzyl-1,3-dihydrospiro[isobenzofuran-1,3'-piperidine]-3-one | C(C1=CC=CC=C1)N1CC2(CCC1)OC(C1=CC=CC=C12)=O | C19H19NO2
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
product | 1'-Benzyl-1,3-dihydro-3,3-diphenylspiro[isobenzofuran-1,3'-piperidine] | C(C1=CC=CC=C1)N1CC2(CCC1)OC(C1=CC=CC=C12)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H29NO
